US05057156
A flask equipped with a stirrer and a thermometer was charged with 93 parts by weight of laurylamine and 93 parts by weight of ethyleneglycol monoethyl ether and heated to 80° C. Then, 117 parts by weight of Vini-eight (bisfluoroethylvinylphosphate available from Daihachi Chemical Co., Ltd.) was added dropwise thereto for 30 minutes and reacted for 3 hours. After cooling, 300 parts by weight of a 10% sodium hydroxide solution was added and kept at 100° C. for 2 hours to hydrolize it. The resultant mixture was concentrated, to which 500 parts by weight of water and 500 parts by weight of toluene were added and then neutralized with a 10% hydrochloric acid solution. The aqueous layer was removed and the organic layer was concentrated to obtain 2-laurylaminoethylphosphonic acid monomer chloroethyl ester.

reactant | laurylamine | C(CCCCCCCCCCC)N | C12H27N
reactant | ethyleneglycol monoethyl ether | C(C)OCCO | C4H10O2
reactant | bisfluoroethylvinylphosphate | FCCC(=COP(=O)([O-])[O-])CCF
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-laurylaminoethylphosphonic acid | C(CCCCCCCCCCC)NCCP(O)(O)=O | C14H32NO3P
